US06228868B1
ethyl 6-hydroxymethylnicotinate
A slurry of dry calcium chloride (22.7 g, 0.205 mol) in ethanol (300 mL) and THF (300 mL) at 0° C. was treated portionwise with sodium borohydride (15.5 g, 0.41 mol), stirred for 2.5 hours, treated with dimethyl 2,5-pyridinedicarboxylate (20.0 g, 0.103 mol), stirred for 20 minutes, treated with saturated ammonium chloride solution (100 mL), and concentrated. The concentrate was dissolved in dichloromethane, and the solution was washed sequentially with saturated ammonium chloride solution, water, and brine, dried (MgSO4), filtered,and concentrated to provide the desired product containing approximately 10% methyl 6-hydroxymethylnicotinate. This mixture was used directly in the next step without further purification.

reactant | calcium chloride | 0.205 mol, 22.7 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 0.41 mol, 15.5 g | [BH4-].[Na+]
reactant | dimethyl 2,5-pyridinedicarboxylate | 0.103 mol, 20.0 g | N1=C(C=CC(=C1)C(=O)OC)C(=O)OC | C9H9NO4
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
reactant | ethanol | 300 mL | C(C)O | C2H6O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | ethyl 6-hydroxymethylnicotinate | OCC1=NC=C(C(=O)OCC)C=C1 | C9H11NO3
